US04814342
A. Norleucine benzyl ester
According to the general procedure outlined in J. Med. Chem. 1986, Vol. 30, p. 3575, 15.0 g norleucine (Nle) was mixed with 200 mL benzyl alcohol and cooled to 0° C. Thionyl chloride (25 ml) was added dropwise over 15 min. and the mixture was slowly heated to 90° C. with a fierce evolution of SO2 occurring at about 50° C. After 2 h at 90° C. the mixture was cooled to 0° C. and 25 mL more thionyl chloride was added. The mixture was then heated again at 90° C. for 2 h, cooled, diluted with 1.6 L ether and stored overnight at 0° C. The crystals which formed were filtered, washed with ether and dried to give 23.1 g of a damp solid which was recrystallized from 1:10 ethanol-ether, using 23 mL ethanol. The filtered and dried solid weighed 17.1 g, TLC Rf 0.25 in System C. (the spotted plate was exposed to ammonia vapor and dried prior to elution).

reactant | norleucine | 15.0 g | N[C@@H](CCCC)C(=O)O | C6H13NO2
reactant | benzyl alcohol | 200 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | Thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 1.6 L | CCOCC | C4H10O
product | Norleucine benzyl ester | 23.1 g | C(C1=CC=CC=C1)OC([C@@H](N)CCCC)=O | C13H19NO2
